US09169254B2
A 1.5 M solution of n-butyllithium in tetrahydrofuran (0.99 mL) was added to a solution of 4-bromo-1-chloro-2-(2,2,3,3-tetrafluoro-propoxy)-benzene (434 mg, 1.35 mmol) and triisopropyl borate (382 mg, 2.03 mmol) in anhydrous tetrahydrofuran (2.0 mL) at −78° C., and the mixture was stirred for 10 minutes. The reaction mixture was warmed to room temperature and stirred for 30 minutes. 6 N aqueous hydrochloric acid was then added to the reaction mixture, and the reaction was terminated, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was treated with a mixed solution of dichloromethane and hexane to give 4-chloro-3-(2,2,3,3-tetrafluoro-propoxy)-phenylboronic acid as a white solid (246 mg, 64%).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-bromo-1-chloro-2-(2,2,3,3-tetrafluoro-propoxy)-benzene | 1.35 mmol, 434 mg | BrC1=CC(=C(C=C1)Cl)OCC(C(F)F)(F)F | C9H6BrClF4O
reactant | triisopropyl borate | 2.03 mmol, 382 mg | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | tetrahydrofuran | 0.99 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 4-chloro-3-(2,2,3,3-tetrafluoro-propoxy)-phenylboronic acid | 246 mg, 64% | ClC1=C(C=C(C=C1)B(O)O)OCC(C(F)F)(F)F | C9H8BClF4O3
